US07291631B2
Using General Procedure B, 4-amino-butan-1-ol and 3,5-dimethyl-pyridine-2-carbaldehyde in MeOH were reacted with NaBH4 to give 4-[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-butan-1-ol as a pale yellow oil.

reactant | 4-amino-butan-1-ol | NCCCCO | C4H11NO
reactant | 3,5-dimethyl-pyridine-2-carbaldehyde | CC=1C(=NC=C(C1)C)C=O | C8H9NO
reactant | NaBH4 | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | 4-[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-butan-1-ol | CC=1C(=NC=C(C1)C)CNCCCCO | C12H20N2O
